US04195096
PREPARATION OF N-(2-ETHYLHEXYL)-4-HYDROXYBUTYRAMIDE
In a glass reaction vessel 12.9 grams of 2-ethylhexylamine were admixed with 8.6 grams of butyrolactone and the mixture heated to 100° C. on a steam bath until reaction was completed in a period of one hour. A conversion of greater than 95%, based on butyrolactone, was achieved. The product upon cooling to room temperature was a colorless, clear, moderately viscous liquid. IR=6.09 mu.

reactant | 2-ethylhexylamine | 12.9 grams | C(C)C(CN)CCCC | C8H19N
reactant | butyrolactone | 8.6 grams | C1(CCCO1)=O | C4H6O2
product | N-(2-ETHYLHEXYL)-4-HYDROXYBUTYRAMIDE | C(C)C(CNC(CCCO)=O)CCCC | C12H25NO2
